Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Erythromycin Base / doxycycline
 
Attending: ___
 
Chief Complaint:
chronic pelvic pain
 
Major Surgical or Invasive Procedure:
total laparascopic hysterectomy, cystoscopy, introital 
laceration repair
 
History of Present Illness:
This is the ___, gravida 0, with a long history of 
chronic pelvic pain. He has a history of polycystic ovarian 
syndrome with
oligomenorrhea and persistent pain. Due to this persistent pain,
he requested definitive therapy in the form of a hysterectomy
with removal of both ovaries. 
 
Past Medical History:
PCOS, PTSD, panic attacks

 
Social History:
___
Family History:
Negative for any female cancers.
 
Physical Exam:
On day of discharge:
AVSS 
Gen: well-appearing
CV: RRR
Resp: CTAB
Abd: soft, appropriately tender to palpation, non-distended, no 
rebound, no guarding; dermabond in place, clean and dry
Pelvic: no vaginal bleeding
Ext: no edema or tenderness
 
Brief Hospital Course:
On ___, Mr. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy, cystoscopy, 
exam under anesthesia and introital laceration repair. Please 
see the operative report for full details.  

His post-operative course was uncomplicated. Immediately 
post-op, his pain was controlled with medications.
 
Patient was able to meet all post-op milestones on 
post-operative day 1. He was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. He was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
Gabapentin, Ativan, Omeprazole
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
Please take this medication while taking narcotics.  Discontinue 
if you experience loose stools. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*1
2. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO EVERY ___ 
HOURS pain 
Do not take >4000mg acetominophen in one day. Avoid driving and 
drinking alcohol on this med. 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 4 hours Disp #*30 Tablet Refills:*0
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every ___ hours Disp #*50 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN pain 
Take medication with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0

Patient was instructed to continue his home medications.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic pelvic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital and underwent a total 
laparascopic hysterectomy and cystoscopy.  Your surgery went 
well and you are now ready to be discharged home.  Please follow 
these instructions:

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no douching, no sex) for 3 months
* No heavy lifting of objects >10lbs for 6 weeks.    
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___